US08633200B2
A mixture of (S)-methyl 2-(tert-butoxy)-2-(7-chloro-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate (50 mg, 0.113 mmol), 2-(8-fluoro-5-methylchroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (36.4 mg, 0.124 mmol) and 2M Na2CO3 (0.113 mL, 0.226 mmol) in DMF (1.5 mL) was added tetrakis(triphenylphosphine)pallafium(0) (13.07 mg, 0.011 mmol) and the mixture was subjected to microwave heating at 120° C. for 1 h. The mixture was then filtered and purified by prep HPLC to afford atrope isomer 1 (major, first eluting): (2S)-methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate (27 mg, 0.047 mmol, 41.7% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ: 7.56 (d, J=7.9 Hz, 1H), 7.52 (s, 1H), 7.09 (d, J=7.9 Hz, 1H), 6.92 (d, J=10.7 Hz, 1H), 6.84 (s, 1H), 5.03 (s, 1H), 4.41-4.32 (m, 2H), 3.66 (s, 3H), 2.88-2.78 (m, 6H), 2.77 (s, 3H), 2.26-2.17 (m, 2H), 1.86 (s, 3H), 1.85-1.79 (m, 4H), 1.19 (s, 9H).

reactant | (S)-methyl 2-(tert-butoxy)-2-(7-chloro-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.113 mmol, 50 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1Cl)N=C(C2)C2=CC=1CCCCC1C=C2)C | C24H28ClN3O3
reactant | 2-(8-fluoro-5-methylchroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.124 mmol, 36.4 mg | FC=1C=C(C(=C2CCCOC12)C)B1OC(C(O1)(C)C)(C)C | C16H22BFO3
reactant | Na2CO3 | 0.226 mmol, 2M, 0.113 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (2S)-methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.047 mmol, 27 mg, 41.7% yield | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C2=CC=1CCCCC1C=C2)C | C34H38FN3O4
